US06703392B2
2-[(1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-N-methyl-acetamide:
prepared by reaction of (1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with N-benzyl-N-methylamine

reactant | (1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C[C@@H]2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
product | 2-[(1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-N-methyl-acetamide | COC=1C=C(C[C@@H]2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)N(C)CC2=CC=CC=C2)C=CC1OC | C30H36N2O5
